US05026865
2,5-Bis(3-phenyloxy-2-hydroxypropylthio)-1,3,4-thiadiazole
Phenyl glycidyl ether (179.4 grams, 1.20 moles) and isopropanol (200 ml) were charged into the reaction vessel. 2,5-Dimercapto-1,3,4-thiadiazole (85 grams, 0.568 moles) was added in increments and with stirring. The reaction mixture was refluxed for 5 minutes. The solvent was stripped off by using a rotary evaporator at about 20 mm Hg and 115° C. The product solidified on cooling and was characterized by the infrared absorption bands at 3400, 3060, 2920, 1600, 1500, 1380, 1240, 1040, 750, and 690 cm-1.

reactant | Phenyl glycidyl ether | 1.20 moles, 179.4 grams | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 2,5-Dimercapto-1,3,4-thiadiazole | 0.568 moles, 85 grams | SC=1SC(=NN1)S | C2H2N2S3
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 2,5-Bis(3-phenyloxy-2-hydroxypropylthio)-1,3,4-thiadiazole | C1(=CC=CC=C1)OCC(CSC=1SC(=NN1)SCC(COC1=CC=CC=C1)O)O | C20H22N2O4S3
